US05814653
To a mixture of 0.40 gm (1.24 mMol) 6-(4-fluorobenzoyl)amino-3-amino-1,2,3,4-tetrahydro-9H-carbazole and 0.257 gm (1.86 mMol) potassium carbonate in 8.0 mL dimethylform-amide were added 0.303 gm (1.49 mMol) 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane in 2.0 mL dimethylformamide and the mixture was stirred at 60°-75° C. for 18 hours. An additional 0.101 gm (0.50 mMol) 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane were added and the reaction heated to 150° C. After 1.5 hours the reaction mixture was cooled to room temperature and was then partitioned between water and dichloromethane. The aqueous phase was extracted again with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with 95:5:0.5 dichloromethane:methanol:ammonium hydroxide. Fractions shown to contain product were combined and concentrated under reduced pressure to give 0.180 gm (33.6%) of 6-(4-fluorobenzoyl)amino-3-(2-(1-methyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole. The corresponding hydrochloride salt was prepared to provide the title compound.

reactant | 6-(4-fluorobenzoyl)amino-3-amino-1,2,3,4-tetrahydro-9H-carbazole | 1.24 mMol, 0.40 gm | FC1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)N)C=C1 | C19H18FN3O
reactant | potassium carbonate | 1.86 mMol, 0.257 gm | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane | 1.49 mMol, 0.303 gm | CN1N=CC(=C1)CCOS(=O)(=O)C | C7H12N2O3S
reactant | 2-(1-methyl-1H-pyrazol-4-yl)-1-mesyloxyethane | 0.50 mMol, 0.101 gm | CN1N=CC(=C1)CCOS(=O)(=O)C | C7H12N2O3S
solvent | dimethylform-amide | 8.0 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 6-(4-fluorobenzoyl)amino-3-(2-(1-methyl-1H-pyrazol-4-yl)ethyl)amino-1,2,3,4-tetrahydro-9H-carbazole | 0.180 gm, 33.6% | FC1=CC=C(C(=O)NC=2C=C3C=4CC(CCC4NC3=CC2)NCCC=2C=NN(C2)C)C=C1 | C25H26FN5O
